US07968570B2
A mixture of 4-bromo-2-bromomethyl-6-methyl-benzoic acid methyl ester (0.966 g, 3.0 mmol), 4-chloro-benzylamine (0.462 mL, 3.8 mmol), and K2CO3 (0.829 g, 6.0 mmol) in toluene (10 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 5-bromo-7-methyl-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one (0.725 g, 69%). GC-MS: m/z 350 (M)+, 314 (M−36)+.

reactant | 4-bromo-2-bromomethyl-6-methyl-benzoic acid methyl ester | 3.0 mmol, 0.966 g | COC(C1=C(C=C(C=C1C)Br)CBr)=O | C10H10Br2O2
reactant | 4-chloro-benzylamine | 3.8 mmol, 0.462 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | K2CO3 | 6.0 mmol, 0.829 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-7-methyl-2-(4-chloro-benzyl)-2,3-dihydro-isoindol-1-one | 0.725 g, 69% | BrC=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)Cl | C16H13BrClNO
